US07777047B2
N-{5-(2-hydroxyethoxy)-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide
To a solution of ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate (400 mg) in tetrahydrofuran (5 mL) was added lithium borohydride (18 mg) under ice-cooling, and the mixture was stirred at room temperature for 3 days. 1N Hydrochloric acid was added under ice-cooling, and the mixture was basified with saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound (205 mg, yield 55%) as a colorless solid. melting point 160-162° C.

reactant | ethyl ({7-[methyl(pyridin-2-ylsulfonyl)amino]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl}oxy)acetate | 400 mg | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCC(=O)OCC)S(=O)(=O)C1=NC=CC=C1 | C26H31N5O5S3
reactant | lithium borohydride | 18 mg | [BH4-].[Li+]
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-{5-(2-hydroxyethoxy)-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 205 mg, yield 55% | OCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1 | C24H29N5O4S3
